US07381719B2
Add sodium triacetoxyborohydride (0.2600 g, 1.227 mmol) to a stirred solution of 6-[4-(2-benzylamino-ethyl)-phenoxy]-nicotinamide (0.3058 g, 0.8802 mmol), benzaldehyde (0.092 mL, 0.905 mmol), glacial acetic acid (0.052 mL, 0.908 mmol) and 1,2-dichloroethane (8 mL). Stir for 18 h at room temperature under nitrogen. Pour the reaction into 1N sodium hydroxide (50 mL) and extract with diethyl ether (3×50 mL). Wash the diethyl ether extracts with brine, dry over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 75% ethyl acetate/hexanes to yield 0.2501 g (65%) of 6-[4-(2-dibenzylamino-ethyl)-phenoxy]-nicotinamide: HPLC (30/70 to 90/10 ACN/(0.1% TFA in water) Zorbax SB-Phenyl Column 4.6 mm×15 cm×5 micron: Retention time: 8.14 minutes, Purity: 99.7%; mass spectrum (ion spray): m/z=438.0 (M+1).

reactant | sodium triacetoxyborohydride | 1.227 mmol, 0.2600 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 6-[4-(2-benzylamino-ethyl)-phenoxy]-nicotinamide | 0.8802 mmol, 0.3058 g | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C21H21N3O2
reactant | benzaldehyde | 0.905 mmol, 0.092 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 0.908 mmol, 0.052 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
product | 6-[4-(2-dibenzylamino-ethyl)-phenoxy]-nicotinamide | 0.2501 g, 65% | C(C1=CC=CC=C1)N(CCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)CC1=CC=CC=C1 | C28H27N3O2
